US07371779B2
Preparation of ethyl 3-anilino-2-decenoate
A solution of aniline (6 mmol), ethyl 3-oxodecanoate (6 mmol) and toluene-p-sulfonic acid (50 mg) in dry toluene (60 ml) was heated under reflux for 24 hours using Dean-Stark apparatus for the azeotropic removal of water. The solvent was removed in vacuum to afford the title product as an oil which was used without purification in the next step.

reactant | aniline | 6 mmol | NC1=CC=CC=C1 | C6H7N
reactant | ethyl 3-oxodecanoate | 6 mmol | O=C(CC(=O)OCC)CCCCCCC | C12H22O3
reactant | toluene-p-sulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-anilino-2-decenoate | N(C1=CC=CC=C1)C(=CC(=O)OCC)CCCCCCC | C18H27NO2
